US05208240
Scheme A, Step i: 2-[4-[2-(2,3,6,9-Tetrahydro1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenylthio]acetic acid
Dissolve 2-[[4-[3-[(6-amino-1-propyl-1,2,3,4-tetrahydro-3-propyl-2,4-dioxo-5-pyrimidinyl)amino]-2-methyl-3-oxopropyl]phenyl]thio]-acetic acid, 1,1-dimethylethyl ester (1.65 g, 3.18 mmol) in a mixture of ethanol (30 mL) and 15% potassium hydroxide (30 mL). Heat at 55° C. and stir for several hours. Cool, acidify and dilute with water (200 mL). Filter the precipitate and dry to give the title compound.

reactant | 2-[[4-[3-[(6-amino-1-propyl-1,2,3,4-tetrahydro-3-propyl-2,4-dioxo-5-pyrimidinyl)amino]-2-methyl-3-oxopropyl]phenyl]thio]-acetic acid, 1,1-dimethylethyl ester | 3.18 mmol, 1.65 g | NC1=C(C(N(C(N1CCC)=O)CCC)=O)NC(C(CC1=CC=C(C=C1)SCC(=O)OC(C)(C)C)C)=O | C26H38N4O5S
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | potassium hydroxide | 30 mL | [OH-].[K+]
solvent | water | 200 mL | O | H2O
product | 2-[4-[2-(2,3,6,9-Tetrahydro1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenylthio]acetic acid | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC1=CC=C(C=C1)SCC(=O)O)C)CCC)=O | C22H28N4O4S
